US06951879B2
In analogy to example 2.1, 3-(4-bromo-phenyl)-benzo[d]isothiazol-6-ol and 1,3-dibromopropane were converted to yield 3-(4-Bromo-phenyl)-6-(3-bromo-propoxy)-benzo[d]isothiazole as yellow oil, MS: 425 (M, 2Br).

reactant | 3-(4-bromo-phenyl)-benzo[d]isothiazol-6-ol | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)O | C13H8BrNOS
reactant | 1,3-dibromopropane | BrCCCBr | C3H6Br2
product | 3-(4-Bromo-phenyl)-6-(3-bromo-propoxy)-benzo[d]isothiazole | BrC1=CC=C(C=C1)C1=NSC2=C1C=CC(=C2)OCCCBr | C16H13Br2NOS
